US06214872B1
A solution of the crude 1-[[4-(4-fluorophenoxy)benzenesulfonyl]-(3-hydroxypropyl)amino]cyclopentanecarboxylic acid benzyl ester (235 grams) in acetone (2 L) was cooled in an ice bath and treated with Jones reagent (about 200 mL) until an orange color persisted. The mixture was stirred from 0° C. to room temperature over 1 hour. After quenching excess oxidant with isopropanol (10 mL), the mixture was filtered and the filtrate was concentrated under vacuum. The residue was taken up in ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated to afford a solid which was triturated with a mixture of diethyl ether and hexane to provide 1{(2-carboxyethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentane carboxylic acid benzyl ester as a white solid (147 grams).

reactant | 1-[[4-(4-fluorophenoxy)benzenesulfonyl]-(3-hydroxypropyl)amino]cyclopentanecarboxylic acid benzyl ester | 235 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(CCCO)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C28H30FNO6S
reactant | Jones reagent | about 200 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 2 L | CC(=O)C | C3H6O
product | 1{(2-carboxyethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentane carboxylic acid benzyl ester | 147 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCC(=O)O | C28H28FNO7S
